US07294631B2
1.3 4-tert-Butoxycarbonylamino-4-cyanomethyl-piperidine-1-carboxylic acid ethyl ester
To a solution of 35.44 g (167.79 mmol) of 4-amino-4-cyanomethyl-piperidine-1-carboxylic acid ethyl ester in 200 ml of tetrahydrofuran was added 4.3 ml of water, 23.58 ml (167.79 mmol) of triethylamine and 36.61 g (167.79 mmol) of di-tert-butyl dicarbonate in 50 ml of tetrahydrofuran. The resulting mixture was stirred at room temperature for 16 h.

reactant | 4-amino-4-cyanomethyl-piperidine-1-carboxylic acid ethyl ester | 167.79 mmol, 35.44 g | C(C)OC(=O)N1CCC(CC1)(CC#N)N | C10H17N3O2
reactant | water | 4.3 ml | O | H2O
reactant | triethylamine | 167.79 mmol, 23.58 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 167.79 mmol, 36.61 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-tert-Butoxycarbonylamino-4-cyanomethyl-piperidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC(CC1)(CC#N)NC(=O)OC(C)(C)C | C15H25N3O4
